US07465815B2
5-Methyl-2-(4,6,7-trimethyl-2,3-dihydro-1-benzofuran-3-yl)pyridine
Using 5-methyl-2-(4,6,7-trimethyl-1-benzofuran-3-yl)pyridine obtained in Reference Example 192, the title compound was synthesized in the same manner as in Reference Example 144. Yield 89%. Melting point: 69-70° C. (methanol).

reactant | 5-methyl-2-(4,6,7-trimethyl-1-benzofuran-3-yl)pyridine | CC=1C=CC(=NC1)C1=COC2=C1C(=CC(=C2C)C)C | C17H17NO
solvent | methanol | CO | CH4O
product | 5-Methyl-2-(4,6,7-trimethyl-2,3-dihydro-1-benzofuran-3-yl)pyridine | Yield 89% | CC=1C=CC(=NC1)C1COC2=C1C(=CC(=C2C)C)C | C17H19NO
